US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) obtained from Referential Example 7 was suspended in 1,2-dichloroethane (40 ml), picolinoyl chloride hydrochloride (1.41 g) and pyridine (1.28 ml) were added, and the mixture was refluxed for 1 hour and 30 minutes. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethyl acetate (150 ml), successively washed with water and saturated aqueous sodium bicarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, diethyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 1.75 g of the titled compound.

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | picolinoyl chloride hydrochloride | 1.41 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | pyridine | 1.28 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.75 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(=O)C2=NC=CC=C2)NC(=O)OC(C)(C)C | C21H24N4O4
